US05216167
(a) 2-Ethoxy-4-[N-{1-(2-piperidino-phenyl)-1-butyl}-amino-carbonylmethyl]-benzyl alcohol
Prepared from ethyl 2-ethoxy-4-[N-{1-(2-piperidino-phenyl)1-butyl}-aminocarbonylmethyl}-benzoate by reduction with lithium borohydride in boiling tetrathydrofuran in the presence of 10% of trimethyl borate.

reactant | ethyl 2-ethoxy-4-[N-{1-(2-piperidino-phenyl)1-butyl}-aminocarbonylmethyl}-benzoate | C(C)OC1=C(C(=O)OCC)C=CC(=C1)CC(=O)NC(CCC)C1=C(C=CC=C1)N1CCCCC1 | C28H38N2O4
reactant | lithium borohydride | [BH4-].[Li+]
reactant | trimethyl borate | B(OC)(OC)OC | C3H9BO3
product | 2-Ethoxy-4-[N-{1-(2-piperidino-phenyl)-1-butyl}-amino-carbonylmethyl]-benzyl alcohol | C(C)OC1=C(CO)C=CC(=C1)CC(=O)NC(CCC)C1=C(C=CC=C1)N1CCCCC1 | C26H36N2O3
